Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5](=[O:6])[H:14])[H:13])([H:7])([H:8])[H:9]>>[C:1]([C-:2]1[C:3]([H:11])([H:12])[C@:4]1([C:5]#[O+:6])[H:13])([H:7])([H:8])[H:9].[H:10][H:14],106.576676719485
[C:1]([C:2]1([O:3][H:11])[C:4]([H:12])([H:13])[C:5]([H:14])=[C:6]([H:15])[C:7]1([H:16])[H:17])([H:8])([H:9])[H:10]>>[C:1](=[C:2]([O:3][H:11])/[C:4](=[C:5](\[C:6](=[C:7]([H:16])[H:17])[H:15])[H:14])[H:13])([H:8])[H:9].[H:10][H:12],89.25015603819229
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([O:5][H:15])([H:13])[H:14])[H:9])([H:6])([H:7])[H:8]>>[C:1]([C:2](=[C:3]([H:10])[H:11])[H:9])([H:6])([H:7])[H:8].[C:4]([O:5][H:12])([H:13])([H:14])[H:15],91.3330729381982
[C:1]([C@@:2]([O:3][H:11])([C:4]#[C:5][H:12])[C:6]#[N:7])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:4]#[C:5][H:12])=[C:6]=[N:7][O:3][H:11])([H:8])([H:9])[H:10],74.01012439548441
[O:1]([C:2]([C:3]([C@:6]1([H:15])[C:5]([H:13])([H:14])[C-:4]=[O+:7]1)([H:11])[H:12])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C@@:3]1([H:11])[C@@:4]2([H:12])[C:5]([H:13])([H:14])[C@:6]1([H:15])[O:7]2)([H:9])[H:10])[H:8],47.81706453944437
[C:1]([C@@:2]([C:3]([C:4](=[O:5])[H:14])([H:12])[H:13])([C:6]#[N:7])[H:11])([H:8])([H:9])[H:10]>>[C:1]1([H:8])([H:9])[C@@:2]([C:6]#[N:7])([H:11])[C:3]([H:12])([H:13])[C@:4]1([O:5][H:10])[H:14],85.4411569326174
[O:1]([N:2]=[C:3]1[C:4]([H:8])([H:9])[N:5]([H:10])[C:6]1([H:11])[H:12])[H:7]>>[N-:2]=[C:3]=[C:6]([N:5]([C+:4]([H:8])[H:9])[H:10])[H:12].[O:1]([H:7])[H:11],62.036819892666394
[O:1]([C:2]([C:3]#[C:4][H:9])([C:5]#[C:6][H:10])[H:8])[H:7]>>[O:1]([C:5]1=[C:6]([H:10])[C@@:2]1([C:3]#[C:4][H:9])[H:8])[H:7],61.005786096367
[O:1]=[C:2]([C:3]#[N:4])[C:5]#[N:6]>>[C:3](#[N:4])[C:5]#[N:6].[O+:1]#[C-:2],65.0842213572507
[C:1](/[N:2]=[C:3]1\[O:4][N:5]1[C:7]([H:15])([H:16])[H:17])([H:8])([H:9])[H:10].[C:6]([H:11])([H:12])([H:13])[H:14]>>[C:1]([N:2]([C:3](=[O:4])[N:5]([C:6]([H:12])([H:13])[H:14])[C:7]([H:15])([H:16])[H:17])[H:11])([H:8])([H:9])[H:10],27.083553310158507
[N:1](=[C:2](/[O:3][C:4]([C:5]([C:6]#[N:7])([H:12])[H:13])([H:10])[H:11])[H:9])\[H:8]>>[N:1]1=[C:2]([H:9])[O:3][C:4]([H:10])([H:11])[C:5]([H:12])([H:13])[C:6][N:7]1[H:8],73.3727865985075
[H:8][H:9].[N:1](=[C:2]1\[O:3][C@@:4]1([C:5]([O:6][H:13])([H:11])[H:12])[H:10])\[H:7]>>[N:1]([C:2](=[O:3])[C:4]([C:5]([O:6][H:13])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8],27.81594696437061
[C:1]([H:7])([H:8])([H:9])[H:10].[C:2]([O:3][H:11])[C:4]([C:5]([O:6][H:16])([H:14])[H:15])([H:12])[H:13]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5]([O:6][H:16])([H:14])[H:15])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9],19.7096809360783
[C:4](=[O:5])([H:10])[H:11].[C:6](=[N:7][H:13])([H:8])[H:12].[N:1](=[C:2]=[O:3])[H:9]>>[N:1]([C:2](=[O:3])[C:4]([O:5]/[C:6](=[N:7]/[H:13])[H:12])([H:10])[H:11])([H:8])[H:9],69.2901857761814
[C:1](/[C:2](=[N:3]\[H:11])[O:4][C:5]([C:6](=[O:7])[H:14])([H:12])[H:13])([H:8])([H:9])[H:10]>>[C:1]([C+:2]([N:3]([O-:7])[H:11])[C@:6]1([H:14])[O:4][C:5]1([H:12])[H:13])([H:8])([H:9])[H:10],108.066914612051
[N:1]([C:2](=[O:3])[C:4]([O:5][C:6](=[O:7])[H:12])([H:10])[H:11])([H:8])[H:9]>>[C-:6]#[O+:7].[N:1]([C:2](=[O:3])[C:4]([O:5][H:12])([H:10])[H:11])([H:8])[H:9],51.510785188464496
[C:1]([C@@:2]([O:3][H:10])([C:4]#[C:5][H:11])[H:9])([H:6])([H:7])[H:8]>>[C:1]([C@@:2]1([H:9])[C:4]([O:3][H:10])=[C:5]1[H:11])([H:6])([H:7])[H:8],67.7090294147566
[C:1](=[C:2]=[O:3])([H:8])[H:9].[N:4]([C:5](=[O:6])[H:11])([H:7])[H:10]>>[C:1]([C:2](=[O:3])[N:4]([C:5](=[O:6])[H:11])[H:10])([H:7])([H:8])[H:9],41.10480613545759
[C:1]([C:2](=[O:3])[C:4](=[O:5])[C:6]([H:10])([H:11])[H:12])([H:7])([H:8])[H:9]>>[C:1]([O:5][C:4](=[C:2]=[O:3])[C:6]([H:10])([H:11])[H:12])([H:7])([H:8])[H:9],83.4339752638464
[C:1]([C:2]([O:3][H:11])([C:4](=[O:5])[H:12])[C:6](=[O:7])[H:13])([H:8])([H:9])[H:10]>>[C-:4]#[O+:5].[C:1]([C:2](=[O:3])[C:6](=[O:7])[H:13])([H:8])([H:9])[H:10].[H:11][H:12],48.5795223063365
[C:1]([C:2]1([C:5](=[O:6])[H:14])[C:3]([H:10])([H:11])[C:4]1([H:12])[H:13])([H:7])([H:8])[H:9]>>[C-:5]#[O+:6].[C:1]([C:2]1=[C:3]([H:11])[C:4]1([H:12])[H:13])([H:7])([H:8])[H:9].[H:10][H:14],77.0375935616871
[C:1](/[C:2](=[C:4]1\[O:5][C:7]([H:13])=[C:6]1[O:3][H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:12])([C:4](=[O:5])[C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10],52.98629499302339
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[O:4][C@:5]([C:6]([H:15])([H:16])[H:17])([H:14])[O:7]1)([H:8])([H:9])[H:10]>>[C:1]1([H:8])([H:10])[C:2]([H:9])([H:11])[C:3]([H:12])([H:13])[O:4][C:5]([C:6]([H:15])([H:16])[H:17])([H:14])[O:7]1,89.9229435515314
[O:1]([C:2]([C:3](=[C:4])[C:5]([O:6][H:12])([H:10])[H:11])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C:3]#[C:4][C:5]([O:6][H:12])([H:10])[H:11])([H:8])[H:9])[H:7],9.910872831359605
[C:1]([C@@:2]([O:3][H:12])([C:4](=[O:5])[C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[C:4]=[O:5])[H:11])([H:8])([H:9])[H:10].[O:3]([C:6]#[C:7][H:13])[H:12],63.9577753741174
[C-:4]#[O+:5].[C:6](#[N:7])[H:9].[N:1](=[C:2]=[O:3])[H:8]>>[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6]#[N:7])\[H:8],57.39222869554023
